US05302720
A suspension of 2-nitro-5-methoxyaniline (3.7 g) in water (25 ml) was heated at 80° C. with 36% hydrochloric acid (7.7 ml) for 30 minutes. It was then treated dropwise with aqueous sodium nitrite solution (1.8 g in 5 ml H2O) at 0° C. After 1 hour, the mixture was filtered and the filtrate added at 23° C. to a solution of dimethylamine (35% aqueous solution, 3.9 ml) and sodium carbonate (8.2 g) in water (340 ml). After 12 hours at 23° C. a solid was collected by filtration and dissolved in benzene (100 ml). The solution was heated under reflux and treated with p-toluene sulphonic acid (4.0 g) and heated under reflux for 4 hours in a Dean-Stark water separator. The reaction mixture stood for 48 hours and was then partitioned between cold 10% aqueous sodium hydroxide solution and dichloromethane. Evaporation of the organic layer left an oil which was purified on silica column using ethylacetate:hexane as eluant to furnish 5-methoxy-2-nitrobiphenyl which was dissolved in ethanol (30 ml) and heated under reflux with sodium sulphide (5.3 g) for 8 hours. Purification of the product on a silica column gave 2-amino-5-methoxybiphenyl which was converted into its hydro-chloride salt (m.p. 167° C.).

reactant | 2-nitro-5-methoxyaniline | 3.7 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)OC | C7H8N2O3
reactant | hydrochloric acid | 7.7 ml | Cl | ClH
reactant | sodium nitrite | 5 ml, 1.8 g | N(=O)[O-].[Na+]
solvent | water | 25 ml | O | H2O
product | 5-methoxy-2-nitrobiphenyl | COC=1C=CC(=C(C1)C1=CC=CC=C1)[N+](=O)[O-] | C13H11NO3
